US03947593
A solution of 12.0 g (0.025 mole) 2,7-bis(5-diethylaminovaleryl)fluorene, prepared in Example 29, 2.0 ml 40% benzyltrimethylammonium hydroxide in pyridine and 200 ml pyridine is stirred at room temperature while oxygen is bubbled through the solution at a rate of 500 ml/min. for a total of four hours. The reaction mixture is evaporated to dryness leaving a residue which is chromatographed on alumina using chloroform as the eluant. The solvent is removed from the reaction collected leaving a solid which is recrystallized once from chloroform-petroleum ether to yield 2,7-bis(5-diethylaminovaleryl)fluoren-9-one. M.P. 108°-109.5°C.

reactant | 2,7-bis(5-diethylaminovaleryl)fluorene | 0.025 mole, 12.0 g | C(C)N(CCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCN(CC)CC)=O)CC | C31H44N2O2
reactant | benzyltrimethylammonium hydroxide | 2.0 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | oxygen | O=O | O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2,7-bis(5-diethylaminovaleryl)fluoren-9-one | C(C)N(CCCCC(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(CCCCN(CC)CC)=O)=O)CC | C31H42N2O3
